US09422253B2
3-Benzyloxybenzoyl chloride [5]
A stirred mixture of 3-benzyloxybenzoic acid (22.0 g; 0.096 mol) and dry dimethylformamide (2 drops) in dry dichloromethane (100 cm3) was treated with oxalyl chloride (19 g; 0.15 mol) which was added in 4 approximately equal portions over ˜30 minutes. The mixture was stirred at room temperature until evolution of hydrogen chloride had ceased (˜6 hrs). The resulting colourless solution was evaporated in vacuo at 40° to constant weight to give a very pale tan oil that solidified rapidly to give the title compound as off-white needles.

reactant | 3-benzyloxybenzoic acid | 0.096 mol, 22.0 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)O)C=CC1 | C14H12O3
reactant | oxalyl chloride | 0.15 mol, 19 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | hydrogen chloride | Cl | ClH
catalyst | dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | dichloromethane | 100 cm3 | ClCCl | CH2Cl2
product | 3-Benzyloxybenzoyl chloride | C(C1=CC=CC=C1)OC=1C=C(C(=O)Cl)C=CC1 | C14H11ClO2
